US04603135
Ethylene bromohydrin (4.03 g) was added dropwise to a mixture of 1-(2,2-diphenylethyl)piperazine (4.30 g), potassium carbonate (6.7 g) and N,N-dimethylformamide (20 ml) with stirring. The mixture was stirred at room temperature overnight, diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over Na2SO4. The solvent was then distilled off and the residue was subjected to silica gel chromatography. Elution with ethyl ether-ethyl acetate-methanol (10:2:1, v/v) gave 4-(2,2-diphenylethyl)-1-piperazineethanol as an oil. Yield 4.24 g.

reactant | Ethylene bromohydrin | 4.03 g | C(CO)Br | C2H5BrO
reactant | 1-(2,2-diphenylethyl)piperazine | 4.30 g | C1(=CC=CC=C1)C(CN1CCNCC1)C1=CC=CC=C1 | C18H22N2
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2,2-diphenylethyl)-1-piperazineethanol | C1(=CC=CC=C1)C(CN1CCN(CC1)CCO)C1=CC=CC=C1 | C20H26N2O
